Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / clonidine
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
NOne
 
History of Present Illness:
HMED ATTG ADMIT NOTE
.
DATE ___
TIME 0320
.
PCP ___. 
Location: ___ 
Address: ___, ___ 
Phone: ___ 
Fax: ___ 
.
___ yo F with pmhx significant for morbid obesity, HTN, HLD, GERD 
and OSA who presents to the ED from ___ office complaining of 
abdominal pain.
.
Symptoms began ___ am with LLQ pain while bending over 
that radiated to back.  Pain described as "gas-like".  Pain 
increased throughout the morning and involved the entire 
abdomen.  Patient left work early and took milk of magnesia.  
Had a BM without any change in pain.  On ___ had BM and 
passed gas with marked improvement in pain.  Patient then went 
to previously scheduled PCP appt who sent patient to the ED to 
rule out appendicitis.  
.
Currently reports pain has improved to mild bilateral lower 
quadrant ache.  Back pain has completely resolved.  Also with 
urgency, no dysuria.  Denies any nausea, vomiting, fevers, 
brbpr, melena, cp or sob.  Reports poor po intake over past two 
days.
.
ED: 97.2  41P  119/67  18  98%RA -> decreased bp to 84/45 
responded to 1L of NS with sbp in 100s.  HR in ___ which is 
baseline.  CT a/p unremarkable.  Given cipro 400 po for positive 
UA.  Morphine 5mg.
.
ROS as per HPI, 10 pt ROS otherwise negative
 
Past Medical History:
HTN
HLD
Morbid obesity - being considered for bariatric surgery
GERD
Impaired glucose tolerance
Diverticulosis
H. pylori 
OSA does not tolerate CPAP
Spinal stenosis
Migraines
Bradycardia

 
Social History:
___
Family History:
Mother deceased from ___.  Father deceased from colon cancer.
 
Physical Exam:
VS  98.0  43P  20RR  115/70  100%RA
Appearance: alert, NAD, obese
Eyes: eomi, perrl, anicteric
ENT: OP clear s lesions, mmd, no JVD, neck supple
Cv: +s1, s2  -m/r/g, no peripheral edema, 2+ dp/pt bilaterally
Pulm: clear bilaterally
Abd: soft, obese, mild lower quadrant abdominal tenderness, no 
distension, +bs, no rebound/guarding
Msk: strength intact
Neuro: cn ___ grossly intact, no focal deficits
Skin: no rashes
Psych: appropriate, pleasant
Heme: no cervical ___

 
___ Results:
___ 06:40PM   PLT COUNT-199
___ 06:40PM   NEUTS-61.3 ___ MONOS-5.5 EOS-1.9 
BASOS-0.7
___ 06:40PM   WBC-5.4 RBC-4.53 HGB-13.2 HCT-40.2 MCV-89 
MCH-29.1 MCHC-32.8 RDW-13.7
___ 06:40PM   LIPASE-44
___ 06:40PM   ALT(SGPT)-20 AST(SGOT)-22 ALK PHOS-64 TOT 
BILI-0.3
___ 06:40PM   estGFR-Using this
___ 06:40PM   GLUCOSE-116* UREA N-12 CREAT-0.8 SODIUM-137 
POTASSIUM-3.3 CHLORIDE-99 TOTAL CO2-30 ANION GAP-11
___ 07:34PM URINE  MUCOUS-RARE
___ 07:34PM URINE  RBC-3* WBC-28* BACTERIA-FEW YEAST-NONE 
EPI-2
___ 07:34PM URINE  BLOOD-TR NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-LG
___ 07:34PM URINE  COLOR-Straw APPEAR-Clear SP ___
.
___ EKG: 41 sinus brady, LAD, Q V1, TWF lateral leads, 
unchanged ___
.
___ CT a/p with contrast:
No acute intra-abdominal process.  No findings to explain 
patient's symptoms.
.
___ CXR: read pending

 
Brief Hospital Course:
___ yo F with pmhx significant for morbid obesity, HTN, HLD, GERD 
and OSA who is admitted with lower abdominal pain and fluid 
responsive hypotension and urinary tract infection.
.
#UTI: The patient endorsed urinary urgency with lower abdominal 
pain with UA showing few WBC and bacteria. She was treated with 
cefetriaxone and then transitioned to oral ciprofloxacin with 
plan for seven day course. Urine culture in the Emergency 
Department was contamined with mixed flora. 
.
#HYPOTENSION: The patient had isolated BP of ___ in ED, 
which was fluid responsive and has maintained blood pressure 
with systolic in low 100s (per OMR sheets blood pressure rangers 
100-130) on the medicine floor. She remained afebrile, with 
normal respiratory rate, normal WBC count (no SIRS criteria at 
this time). AM cortisol was within normal limits. Her EKG 
revealed sinus bradycardia with a rate in the ___, which is 
chronic. She was encouraged to maintain adequate hydration. Her 
chlorathalidone at restarted at discharge. Her atenolol was held 
given her borderline blood pressure and bradycardia. Recommended 
follow up with PCP for consideration to restart. 
.
#LOW BACK PAIN: Patient endorsed intermittent bilateral lower 
abdominal pain with sacroiliac and paraspinallumbar back pain 
that was better after bowel movement and worse with standing. 
Pyelonephritis was considered but exam not c/w CVA tenderness 
and CT abdomen was unremarkable. It was considered that this was 
referred back from lumbar spine. She had an L-spine plain film 
that was without fracture. She had no red flag symptoms at this 
time. We discussed pain control with tylenol ATC, oxycodone PRN, 
and flexeril PRN. She will follow up with primary care physician 
and if persists for ___ weeks or develops red flag symptoms 
recommend further imaging.
.
#LIVER CYSTS: Incidentally noted on CT abdomen, similar compared 
to u/s performed in ___. This was discussed with the patient 
and family on ___. 
.
#RENAL CYST: Noted to have possible small renal cyst on CT 
abdomen. This was discussed with the patient on ___. 
.
CHRONIC: 
#SINUS BRADYCARDIA: History of sinus bradycardia, asymptomatic, 
chronic and stable
#HYPERLIPIDEMIA: continue pravsastatin 
#GERD: continue ranitidine
#POSITIVE H.PYLORI: Found on outpt labs, outpt f/u with plan for 
urea breath test
FULL CODE
___ (sister) ___
Letter sent to PCP ___
.
TRANSITIONAL: 
-f/u final read L. spine plain film
-f/u blood pressure and consider restart second agent 
-f/u lower back pain and if persistent or develop red flag sx 
consider MRI 
-f/u liver and renal cyst with imaging in the future to ensure 
stability
 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from Patient.
1. Atenolol 100 mg PO DAILY 
2. Chlorthalidone 25 mg PO DAILY 
3. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
4. Vitamin D 50,000 UNIT PO 1X/WEEK (TH) 
5. Pravastatin 80 mg PO DAILY 
6. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob 
7. Ranitidine 150 mg PO BID 
8. Nortriptyline 10 mg PO HS:PRN insomnia 
9. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Ranitidine 150 mg PO BID 
2. Pravastatin 80 mg PO DAILY 
3. Nortriptyline 10 mg PO HS:PRN insomnia 
4. Multivitamins 1 TAB PO DAILY 
5. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
6. Chlorthalidone 25 mg PO DAILY 
7. Vitamin D 50,000 UNIT PO 1X/WEEK (TH) 
8. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob 
9. Ciprofloxacin HCl 500 mg PO Q12H Duration: 5 Days 
RX *ciprofloxacin [Cipro] 500 mg 1 tablet(s) by mouth twice a 
day Disp #*10 Tablet Refills:*0
10. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth Q6hrs Disp #*10 Tablet 
Refills:*0
11. Cyclobenzaprine 5 mg PO BID:PRN low back pain 
RX *cyclobenzaprine 5 mg 1 tablet(s) by mouth three times a day 
Disp #*10 Tablet Refills:*0
RX *cyclobenzaprine 5 mg 1 tablet(s) by mouth twice a day Disp 
#*8 Tablet Refills:*0
12. Acetaminophen ___ mg PO Q6H:PRN pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
UTI
Musculoskelatal low back pain 
Bradycardia 
Liver cyst

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure to participate in your care. You were admitted 
to the hospital with low blood pressure. You were given IV 
fluids and your blood pressure improved to normal.  Your 
atenolol was stopped as your blood pressure and heart rate were 
low. Please follow up with your primary care physician regarding 
___ this medication. It is important for you to stay 
well hydrated while it is hot outside. 
.
You reported urinary urgency and lower abdominal pain. You were 
found to have a urinary tract infection on urinalysis. You were 
started on antibioitcs. You will continue antibiotics for 
another five days. A CT scan of your abdomen was normal. 
.
You reported lower back in addition to the abdominal pain. This 
pain could be due to the urinary tract infection or could be 
musculoskeletal low back pain. You had an X-ray of your lower 
back that did not show a vertebral fracture. You were given pain 
medication for your back pain. We discussed that in the majority 
of patients with mechanical lower back pain there is improvement 
in symptoms over days to several weeks. You can take tylenol and 
oxycodone and flexeril for pain. Please follow up with your 
primary care physician for ongoing management. 
 
Followup Instructions:
___